US07635684B2
To a solution of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-aminopropoxy)-2-methylphenyl]-methyl}-5-isopropyl-1H-pyrazole (70 mg) in tetrahydrofuran (3 mL) was added N-(benzyloxycarbonyl)-1H-pyrazole-1-carboxamidine (0.27 g), and the mixture was stirred at 60° C. for 20 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1-ethyl acetate-ethyl acetate/ethanol=10/1) to give 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-({4-[3-(N-benzyloxycarbonylguanidino)propoxy]-2-methylphenyl}-methyl)-5-isopropyl-1H-pyrazole (50 mg). This material was dissolved in methanol (1 mL). To the solution was added sodium methoxide (28% methanol solution, 0.01 mL), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure, and the residue was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent: methanol) to give 4-({4-[3-(N′-benzyloxycarbonylguanidino)propoxy]-2-methylphenyl}methyl)-3-(β-D-glucopyranosyloxy)-5-isopropyl-1H-pyrazole (35 mg). This material was dissolved in methanol (2 mL). To the solution was added 10% palladium-carbon powder (15 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 2 hours. The insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure to give the title compound (27 mg).

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-aminopropoxy)-2-methylphenyl]-methyl}-5-isopropyl-1H-pyrazole | 70 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)OCCCN)C)C(C)C | C31H43N3O11
reactant | N-(benzyloxycarbonyl)-1H-pyrazole-1-carboxamidine | 0.27 g | C(C1=CC=CC=C1)OC(=O)NC(=N)N1N=CC=C1 | C12H12N4O2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-({4-[3-(N-benzyloxycarbonylguanidino)propoxy]-2-methylphenyl}-methyl)-5-isopropyl-1H-pyrazole | 50 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)OCCCN(C(=N)N)C(=O)OCC1=CC=CC=C1)C)C(C)C | C40H51N5O13
